US07728142B2
6-Bromo-4-chloro-3-methanesulfonyl-2-methyl-quinoline
6-Bromo-3-methanesulfonyl-2-methyl-quinolin-4-ol (example C.1) (6 g, 19 mmol) and N,N-dimethyl-p-toluidine (5.5 mL, 38 mmol) were dissolved in toluene (60 mL) and heated under argon to reflux. The phosphorous oxychloride (1.9 mL, 20.9 mL) was added and heating at reflux continued for 6.5 h. The product precipitated spontaneously upon cooling to 20° C., the crystals were filtered off and washed with little toluene. One obtained 4.19 g (66%) of light brown crystals. Since the product is somewhat soluble in toluene, the mother liquor was extracted with 3 N HCl (2×), sat. NaCl (2×). The residue was purified by chromatography on silica gel in dichloromethane. One obtained 1.17 g (18%) of additional material. MS: m/z=333/335 (M).

reactant | 6-Bromo-3-methanesulfonyl-2-methyl-quinolin-4-ol | 19 mmol, 6 g | BrC=1C=C2C(=C(C(=NC2=CC1)C)S(=O)(=O)C)O | C11H10BrNO3S
reactant | N,N-dimethyl-p-toluidine | 38 mmol, 5.5 mL | CN(C1=CC=C(C=C1)C)C | C9H13N
reactant | phosphorous oxychloride | 1.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-4-chloro-3-methanesulfonyl-2-methyl-quinoline | 1.17 g, 18% | BrC=1C=C2C(=C(C(=NC2=CC1)C)S(=O)(=O)C)Cl | C11H9BrClNO2S
